US04290960
(d) Preparation of 2,5-dimethyl-4-hydroxy-2,3-dihydrofuran-3-one
17.5 g of 2,5-dimethyl-3,4-dihydroxy-tetrahydrofuran-3-one of about 80% purity were heated, in a suspension of 40 g of bismuth oxide and 50 g of glacial acetic acid, for 25 minutes at 120° C. After the reaction mixture had cooled, it was diluted with 80 g of ethyl acetate, whereupon metallic bismuth and bismuth acetate precipitated. The filtrate was fractionated, giving, at 85°-101° C./0.3 mbar, 14.2 g of a distillate containing about 77% of (I). This corresponds to a yield of 79%. 2.5 g of this fraction were taken up in a mixture of 2.8 g of chloroform and 1.6 g of petroleum ether, from which, after cooling, pure (I) of solidification point 75°-76° C. crystallized.

reactant | bismuth oxide | 40 g | [Bi]=O
reactant | acetic acid | 50 g | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | 80 g | C(C)(=O)OCC | C4H8O2
solvent | bismuth | [Bi] | Bi
solvent | bismuth acetate | C(C)(=O)[O-].[Bi+3].C(C)(=O)[O-].C(C)(=O)[O-]
solvent | chloroform | 2.8 g | C(Cl)(Cl)Cl | CHCl3
product | 2,5-dimethyl-4-hydroxy-2,3-dihydrofuran-3-one | yield of 79% | CC1OC(=C(C1=O)O)C | C6H8O3
